US08633322B2
To a solution of N-Boc-L-Homoserine (16 mg, 0.075 mmol, 1.5 eq) and HOBT hydrate (12 mg, 0.085 mmol, 1.7 eq) in DMF (2 mL) was added PS-carbodiimide (also known as N-Cyclohexylcarbodiimide-N′-propoxymethyl polystyrene, purchased from Biotage) (80 mg, 1.25 mmol/g resin, 0.1 mmol, 2.0 eq). After 10 minutes, a solution of tert-butyl 4-(3-(5-aminopent-1-ynyl)phenoxy)piperidine-1-carboxylate (0.25 mL of a 0.2 M solution in DCM, 0.05 mmol, 1.0 eq) was added and the resulting solution stirred overnight. To the resulting solution was then added MP-carbonate resin (95 mg, 2.64 mmol/g resin, 0.25 mmols, 5 eq), the suspension stirred 2 hrs, filtered, the resin washed with DCM and the filtrate concentrated by rotovap. The residue was taken up in 20% TFA/DCM (2 mL) and stirred 1 hr, methanol (1 mL) was added, and the resulting solution concentrated by rotovap. The resulting residue was purified by HPLC to yield (S)-2-amino-4-hydroxy-N-(5-(3-(piperidin-4-yloxy)phenyl)pent-4-ynyl)butanamide as a gum. ESI-MS (m/z): Calculated for C20H29N3O3: 360.2 (M+1); Measured: 360.2.

reactant | N-Boc-L-Homoserine | 0.075 mmol, 16 mg, 1.5 eq | C(=O)(OC(C)(C)C)N[C@@H](CCO)C(=O)O | C9H17NO5
reactant | HOBT hydrate | 0.085 mmol, 12 mg, 1.7 eq | C1=CC=C2C(=C1)N=NN2O.O
reactant | carbodiimide | N=C=N | CH2N2
reactant | tert-butyl 4-(3-(5-aminopent-1-ynyl)phenoxy)piperidine-1-carboxylate | NCCCC#CC=1C=C(OC2CCN(CC2)C(=O)OC(C)(C)C)C=CC1 | C21H30N2O3
reactant | MP-carbonate resin | 0.25 mmols, 95 mg, 5 eq | CC[NH+](CC)CC.CC[NH+](CC)CC.C(=O)([O-])[O-]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (S)-2-amino-4-hydroxy-N-(5-(3-(piperidin-4-yloxy)phenyl)pent-4-ynyl)butanamide | N[C@H](C(=O)NCCCC#CC1=CC(=CC=C1)OC1CCNCC1)CCO | C20H29N3O3
